US08278328B2
Description 124. bis(1,1-Dimethylethyl) {2-amino-4-[(methyloxy)methyl]phenyl}propanedioate. (D124)
A mixture of bis(1,1-dimethylethyl) {4-[(methyloxy)methyl]-2-nitrophenyl}propanedioate (D123) (1.30 g, 3.41 mmol) and palladium on carbon (0.181 g, 0.170 mmol) in ethanol (30 mL) was stirred under hydrogen at atmospheric pressure for 16 hr. The catalyst was removed by filtration through celite and the filtrate concentrated to dryness under vacuum to afford the crude title compound as a thick yellow oil 1.15 g, 96%.

reactant | bis(1,1-dimethylethyl) {4-[(methyloxy)methyl]-2-nitrophenyl}propanedioate | 3.41 mmol, 1.30 g | COCC1=CC(=C(C=C1)C(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)[N+](=O)[O-] | C19H27NO7
catalyst | palladium on carbon | 0.170 mmol, 0.181 g | [Pd] | Pd
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | bis(1,1-Dimethylethyl) {2-amino-4-[(methyloxy)methyl]phenyl}propanedioate | 1.15 g, 96% | NC1=C(C=CC(=C1)COC)C(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C19H29NO5
